US09126973B2
Preparation of 2-phenyl-5-(2-(1-(pyridin-3-yl)piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine
The title compound is prepared in a similar manner as described in Tetrahedron Letters, 2007, 48(14), 2519-2525. In this case, to a degassed solution of sodium tert-butoxide, palladium acetate, and 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (X-phos) in tert-butanol and toluene is added 3-bromopyridine and 2-phenyl-5-(2-(piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine. The reaction is stirred and heated at 120° C. under nitrogen for 18 hours. The reaction mixture is cooled, diluted with water and the organic material is extracted with ethyl acetate. The organic phase is washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue is chromatographed on silica to give the title compound.

reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-phenyl-5-(2-(piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CCNCC1 | C18H19N5
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-phenyl-5-(2-(1-(pyridin-3-yl)piperidin-4-yl)-1H-imidazol-4-yl)pyrimidine | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=C(NC1)C1CCN(CC1)C=1C=NC=CC1 | C23H22N6
